* OVERALL BEST CANDIDATE: 00_Phase_2_12V_to_100V_Piezo_Drive_Boost_1_8_3_g4_cand2_b9
* FITNESS SCORE: 0.6843
*
* Generated: 2026-06-04T22:33:16
* Constraint: Phase 2: 12V to 100V Piezo Drive (Boost - 1:8.3)
*   vin_min = 10
*   vin_max = 14
*   vout_target = 100
*   efficiency_target = 0.87
*   power_in = 100
* Candidate: 11 of 12
* Grouped name: g4_cand2
*
* 12V to 100V Boost, 100W
Vin in 0 12
L1 in sw 44u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 100
Vgate gate 0 PULSE(0 12 0 1n 1n 8.33u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1u 10m
.save V(*) I(*)
.end
