* === GLOBAL BEST TOPOLOGY ===
* Candidate: cand_10
* Fitness: 0.6813
*
* --- Active Constraints ---
* _comment: Phase 2: 12V to 100V Piezo Drive (Boost - 1:8.3)
* vin_min: 10
* vin_max: 14
* vout_target: 100
* efficiency_target: 0.87
* power_in: 100
*
* --- Raw Metrics & Components ---
* simulation_output_voltage: 64.589287
* efficiency: 1.000000
* total_volume_cm3: 20.400000
* total_components: 4
* ============================

* 12V to 100V Boost, 100W
Vin in 0 12
L1 in sw 10u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 10
Vgate gate 0 PULSE(0 12 0 1n 1n 8.33u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end